US06787536B2
2-Piperazin-1-yl-5-pyridin-3-ylpyrimidine, trihydrochloride
Prepared according to the method for the preparation of 5-(4-fluorophenyl)-2-piperazin-1-ylpyrimidine dihydrochloride, from 4-(5-pyridin-3-ylpyrimidin-2-yl)-piperazine-1-carboxylic acid tert-butyl ester (0.399 g), to furnish the title compound as an off-white solid (0.393 g, 96%).

reactant | 5-(4-fluorophenyl)-2-piperazin-1-ylpyrimidine dihydrochloride | Cl.Cl.FC1=CC=C(C=C1)C=1C=NC(=NC1)N1CCNCC1
reactant | 4-(5-pyridin-3-ylpyrimidin-2-yl)-piperazine-1-carboxylic acid tert-butyl ester | 0.399 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC=C(C=N1)C=1C=NC=CC1 | C18H23N5O2
product | 2-Piperazin-1-yl-5-pyridin-3-ylpyrimidine, trihydrochloride | 0.393 g, 96% | Cl.Cl.Cl.N1(CCNCC1)C1=NC=C(C=N1)C=1C=NC=CC1 | InChI=1S/C13H15N5.3ClH/c1-2-11(8-15-3-1)12-9-16-13(17-10-12)18-6-4-14-5-7-18;;;/h1-3,8-10,14H,4-7H2;3*1H
